US07659263B2
To a solution of methyl 4-nitro-5-methylthiophene-2-carboxylate (1.50 g, 7.46 mmol) in ethanol (7.5 ml) were added 2,4-bisbenzyloxybenzaldehyde (2.49 g, 7.83 mmol) and pyrrolidine (0.65 ml, 7.83 mmol). After stirring for 1 hr with heating under reflux, the reaction mixture was allowed to cool to room temperature. The precipitated solid was collected by filtration. The solid was washed with ethanol (3 ml×3), and dried under reduced pressure to give methyl (E)-5-[2-(2,4-bisbenzyloxyphenyl)vinyl]-4-nitrothiophene-2-carboxylate (3.08 g, yield 82%).

reactant | methyl 4-nitro-5-methylthiophene-2-carboxylate | 7.46 mmol, 1.50 g | [N+](=O)([O-])C=1C=C(SC1C)C(=O)OC | C7H7NO4S
reactant | 2,4-bisbenzyloxybenzaldehyde | 7.83 mmol, 2.49 g | C(C1=CC=CC=C1)OC1=C(C=O)C=CC(=C1)OCC1=CC=CC=C1 | C21H18O3
reactant | pyrrolidine | 7.83 mmol, 0.65 ml | N1CCCC1 | C4H9N
solvent | ethanol | 7.5 ml | C(C)O | C2H6O
product | methyl (E)-5-[2-(2,4-bisbenzyloxyphenyl)vinyl]-4-nitrothiophene-2-carboxylate | 3.08 g, yield 82% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)/C=C/C1=C(C=C(S1)C(=O)OC)[N+](=O)[O-] | C28H23NO6S
